US09079861B2
4-allyl-1-((1S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one
To a mixture of NaH (100 mg, 4 mmol) and anhydrous THF (8 mL) was added dropwise a solution of crude methyl (S)-3-amino-3-(4-fluorophenyl)hex-5-enyl((S)-1-(4-bromophenyl)ethyl)carbamate (39 mg, 0.1 mmol) in anhydrous THF (8 mL) at 0° C. The reaction mixture was refluxed overnight. The reaction mixture was quenched with methanol in an ice bath and evaporated to leave a residue, which was dissolved in CH2Cl2. The combined organic phase was dried, filtered and concentrated to give the crude product, which was purified by TLC to provide (S)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyptetrahydropyrimidin-2(1H)-one (1.2 mg, 3%). LC-MS Method 1 tR=1.603 min, m/z=419; 1H NMR (CD3OD) 1.36 (d, 3H), 1.81-1.92 (m, 1H), 2.16-2.22 (m, 1H), 2.46-2.53 (m, 1H), 2.61-2.84 (m, 3H), 5.12-5.19 (m, 1H), 5.56-5.69 (m, 1H), 7.06-7.13 (m, 2H), 7.18-7.24 (m, 2H), 7.22-7.29 (m, 2H), 7.42-7.51 (m, 2H).

reactant | NaH | 4 mmol, 100 mg | [H-].[Na+]
reactant | methyl (S)-3-amino-3-(4-fluorophenyl)hex-5-enyl((S)-1-(4-bromophenyl)ethyl)carbamate | 0.1 mmol, 39 mg | N[C@](CCN(C(OC)=O)[C@@H](C)C1=CC=C(C=C1)Br)(CC=C)C1=CC=C(C=C1)F | C22H26BrFN2O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-allyl-1-((1S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | C(C=C)C1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)Br)=O)C1=CC=C(C=C1)F | C21H22BrFN2O
